US06900201B2
4-{5-[5-(6,8,10-TRIOXO-1,7,9-TRIAZA-SPIRO[4.5]DEC-1-YL)-PYRIDIN-2-YLOXY]-INDAZOL-1-YL}-BENZONITRILE
2-{6-[1-(4-Cyano-phenyl)-1H-indazol-5-yloxy]-pyridin-3-ylamino}-malonic acid diethyl ester can be prepared by combining 4-[5-(5-Amino-pyridin-2-yloxy)-indazol-1-yl]-benzonitrile (11.4 mmol), bromodiethylmalonate (11.4 mmol), and N,N-dimethylaniline (11.4 mmol) in a flame dried flask and heated to 70° C. for 3.5 hours. The mixture is cooled to room temperature, adsorbed to silica gel and chromatographed (gradient elution, ethyl acetate-hexanes) to afford the title compound.

reactant | 2-{6-[1-(4-Cyano-phenyl)-1H-indazol-5-yloxy]-pyridin-3-ylamino}-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)NC=1C=NC(=CC1)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)C#N)=O | C26H23N5O5
reactant | 4-[5-(5-Amino-pyridin-2-yloxy)-indazol-1-yl]-benzonitrile | 11.4 mmol | NC=1C=CC(=NC1)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C#N)C=C1 | C19H13N5O
reactant | bromodiethylmalonate | 11.4 mmol | BrCCC(C(=O)[O-])(C(=O)[O-])CC
reactant | N,N-dimethylaniline | 11.4 mmol | CN(C1=CC=CC=C1)C | C8H11N
product | 4-{5-[5-(6,8,10-TRIOXO-1,7,9-TRIAZA-SPIRO[4.5]DEC-1-YL)-PYRIDIN-2-YLOXY]-INDAZOL-1-YL}-BENZONITRILE | O=C1C2(CCCN2C=2C=CC(=NC2)OC=2C=C3C=NN(C3=CC2)C2=CC=C(C#N)C=C2)C(NC(N1)=O)=O | C26H19N7O4
